US08748613B2
2-Chloro-1-phenylethanone (29.5 mg, 0.19 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-(4-fluorophenyl)-2-(piperidin-1-yl)acetate (60 mg, 0.17 mmol) in EtOAc (3 ml). 2-Chloro-1-phenylethanone (8.85 mg, 0.06 mmol) were added and stirring was kept for 4 additional hours. Et2O was added and the precipitate was collected by suction filtration to obtain (3R)-3-(2-(4-fluorophenyl)-2-(piperidin-1-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (49.9 mg, 57.5% yield) as a gummy yellow solid.

reactant | 2-Chloro-1-phenylethanone | 0.19 mmol, 29.5 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | (R)-quinuclidin-3-yl 2-(4-fluorophenyl)-2-(piperidin-1-yl)acetate | 0.17 mmol, 60 mg | FC1=CC=C(C=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H27FN2O2
reactant | 2-Chloro-1-phenylethanone | 0.06 mmol, 8.85 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | Et2O | CCOCC | C4H10O
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(4-fluorophenyl)-2-(piperidin-1-yl)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 49.9 mg, 57.5% yield | [Cl-].FC1=CC=C(C=C1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)N2CCCCC2 | InChI=1S/C28H34FN2O3.ClH/c29-24-11-9-23(10-12-24)27(30-15-5-2-6-16-30)28(33)34-26-20-31(17-13-22(26)14-18-31)19-25(32)21-7-3-1-4-8-21;/h1,3-4,7-12,22,26-27H,2,5-6,13-20H2;1H/q+1;/p-1/t22?,26-,27?,31?;/m0./s1
